US05134111
(a) Preparation of ethyl (E)-3-(4-acetoxy-3-isopropyl-5-methyl-1-naphthyl)propenoate
0.5 g of 4-acetoxy-3-isopropyl-5-methyl-1-naphthalenecarbaldehyde and 11 g of (carbethoxymethylene)triphenylphosphorane were dissolved in 50 ml of tetrahydrofuran and refluxed for 1 hour. The reaction mixture was cooled to room temperature and concetrated in vacuo. The resultant residue was purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtain 0.5 g of the titled compound as pale yellow crystals.

reactant | 4-acetoxy-3-isopropyl-5-methyl-1-naphthalenecarbaldehyde | 0.5 g | C(C)(=O)OC1=C(C=C(C2=CC=CC(=C12)C)C=O)C(C)C | C17H18O3
reactant | (carbethoxymethylene)triphenylphosphorane | 11 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl (E)-3-(4-acetoxy-3-isopropyl-5-methyl-1-naphthyl)propenoate | 0.5 g | C(C)(=O)OC1=C(C=C(C2=CC=CC(=C12)C)/C=C/C(=O)OCC)C(C)C | C21H24O4
